US07786108B2
Step 2. Preparation of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine
Add cesium fluoride (2.44 g, 16.1 mmol) to a mixture of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine and methyl boronic acid (0.820 g, 13.8 mmol) in dioxane (50.0 mL). Purge the mixture with nitrogen for 15 min. Add 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride, complex with dichloromethane (0.290 g, 0.355 mmol) under nitrogen. Heat the reaction mixture for 3 h. Cool down to room temperature and then evaporate the solvent under reduced pressure. Partition the residue between ethyl acetate (100 mL) and water (100 mL). Separate the layers and extract the aqueous with more ethyl acetate (2×50 mL). Combine the organic layers, dry over Na2SO4, filter and concentrate. Purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (0-35%), to provide the title compound as an off-white solid (2.16 g, 83%). MS (ES+): 567 (M+H).

reactant | cesium fluoride | 16.1 mmol, 2.44 g | [F-].[Cs+]
reactant | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(NCCC2)C(=C(C(=C3)C)C(F)(F)F)Br)C=C(C1)C(F)(F)F)(F)F | C23H20BrF9N6
reactant | methyl boronic acid | 13.8 mmol, 0.820 g | CB(O)O | CH5BO2
reactant | dichloromethane | 0.355 mmol, 0.290 g | ClCCl | CH2Cl2
solvent | dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
product | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 2.16 g, 83% | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(NCCC2)C(=C(C(=C3)C)C(F)(F)F)C)C=C(C1)C(F)(F)F)(F)F | C24H23F9N6
